data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,1005,"CC(=O)[O-:1].CC1(C)C2CC3=C(C1C2)[CH:2]([H:3])[CH:4]([N+:5]1=CC=CC=C1)C(C1=C(F)C=CC=C1)=[NH+]3.O.[I-]|(1, 3);((3, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,7930,"CCOC(C)([O][Na])[C:1](C)([O:2]CC)[O:3][Na]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,7211,"CC1(C)C2CCC1(CBr)C(=[O+:1][H:2])C2.O=C1CCC(=O)[N-:3]1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9048,"CCCC1CO[C:1]([OH2+:2])([OH:3])C1.O=C([O-])C(F)(F)F|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4332,"C=CCS(=O)C1=CC=C(C)C=C1.CCOC(=O)CBr.COC1=C(C)C=C[C:1]([O:2]S(=O)(=O)C(F)(F)F)=[C:3]1[Si-:4](C)(C)(C)F|((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,4037,"CO[C:1](C1(C2=CC=CC=C2)OC1C(=O)C1=CC=CC=C1)=[O:2].[K][OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5029,"CC(=O)[O-].CCCCCC[C:1](OC(C)(C)C)([N+:2]1=CC=C(N(C)C)C=C1)[O-:3].CC[NH+](CC)CC|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2507,"CCC[CH2][Sn]([CH2]CCC)([CH2]CCC)[C:1]1=[CH:2][CH:3]=[C:4]([O:5]C)C=C1.C[N+:6](C)=[CH2:7].[I-]|(5, 4);((4, 3), 2);((2, 1), 7);((7, 6), 6)"
train,pmechdb_split_0,0,2712,"CC(=O)N1CCC([NH+]2CCCC2)([O-:1])CC1.CC1=CC=C(S(=O)(=O)[O:2][H:3])C=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,8199,"CO.COC[NH+:1](C(CC1=CC=C(O)C=C1)C(=O)O)[H:2].[Cl-].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,27,"CN(C)[C:1]([CH2:2][H:3])=[O:4].[NH2-:5]|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,2098,"CO.C[C:1]#[C:2]CCC[N+:3](CC1=CC=CC=C1)=[CH2:4].O.[N-]=[N+]=[N-].[Na+]|((1, 2), 4);((4, 3), 3)"
train,pmechdb_split_0,0,596,"CC(O)=[O:1].C[CH:2]([H:3])[C+:4](C)C.Cl|(1, 3);((3, 2), 4)"
train,pmechdb_split_0,0,2596,"CO.COC1=C(OC)C=C(C2(O)C(C)[C:1](C)([H:2])[C:3](C3=CC(OC)=C(OC)C=C3)=[O+:4]2)C=C1.[Cl-].[OH2:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,7828,"BrC1=C[CH:1]=[CH:2]O1.[Br:3][Br:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,2840,"CC(C(=O)NC(CCO)C(=O)[O-])[NH2:1].O=C1CCC(=O)N1O[C:2](OCC1C2=C(C=CC=C2)C2=C1C=CC=C2)=[O:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,4481,"CC(=O)O.CC(=O)OI1OC(=O)C2=C1C=CC=C2.CC(=O)[O-:1].CCN1C(C=O)CC2(C34CC(C[O+:2](I5(OC(C)=O)(OC(C)=O)OC(=O)C6=C5C=CC=C6)[H:3])N(CC)C3NC3=CC=CC=C34)C3=CC=CC=C3NC12|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,7022,"CN(C)[C:1]([CH2:2][H:3])=[O:4].[OH-:5]|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,10145,"C=[O+:1][Si-:2](C)(C)(C)OC|((2, 1), 1)"
train,pmechdb_split_0,0,9861,"CC[O-:1].CN(C)[C:2]([CH:3](C(=O)CC1=CC=CC=C1)[H:4])=[O:5]|(1, 4);((4, 3), 2);((2, 5), 5)"
train,pmechdb_split_0,0,6601,"C1=CC=CC=C1.C1CC[C:1](=[O:2])CC1.C1CC[NH:3]C1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1535,"CC(C)[C+:1]1C=C[C:2](S(=O)(=O)O)([H:3])[CH:4]=[CH:5]1.O=S(=O)(O)[O-:6]|(6, 3);((3, 2), 4);((4, 5), 1)"
train,pmechdb_split_0,0,3077,"CCN1CCC23C4=C5C=CC(OC)=C4[O+:1]([H:2])C2C(O)=CCC3C1C5.CC[N:3]1CCC23CC(=O)C(OC)CC2C1CC1=C3C(O)=C(OC)C=C1.CO.CS(=O)(=O)[O-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3195,"CC(=O)[C:1](CCC[CH2:2][Br:3])=[C:4](C)[O-:5]|(5, 4);((4, 1), 2);((2, 3), 3)"
train,pmechdb_split_0,0,6962,"CO.COC1=CC=C(C(C)C(OC)=[O+:1][H:2])C=C1.CS(=O)(=O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9983,"O=C(Cl)O[C:1]1=[CH:2]C=CC=C1.O=[C+:3]OC1=CC=CC=C1|((1, 2), 3)"
train,pmechdb_split_0,0,9772,"CC[NH:1]C(O)(CC#N)NC.O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,5379,"CC#[C-:1].CC=[N+:2](C)[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,6729,"C1=CC=[N+:1]([H:2])C=C1.CC1=CC=C(S(=O)(=O)[O-])C=C1.COC1=C(Br)C=C(C(OCC(C)(C)CO)[OH:3])C=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7551,"SC=[O:1].[Cl][Ti:2]([Cl])([Cl])[Cl]|(1, 2)"
train,pmechdb_split_0,0,884,"CCC(=O)N[C+:1]1C=C[C:2](Br)([H:3])[CH:4]=[CH:5]1.[Br-:6]|(6, 3);((3, 2), 4);((4, 5), 1)"
train,pmechdb_split_0,0,1912,"CC(=O)[O-].CCC12C=CC[N+:1](=[CH:2]1)CCC1=C(CC2)NC2=C1C=CC=C2.N#C[BH2-:3][H:4].[Na+]|((3, 4), 2);((2, 1), 1)"
train,pmechdb_split_0,0,366,"C1=CC=C([P:1](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CCCCC=[C:2]=[CH:3][C:4](CCCC)=[O:5].CC[OH2+]|(1, 2);((2, 3), 4);((4, 5), 5)"
train,pmechdb_split_0,0,4244,"C[CH:1]=[NH2+:2].[Cl-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8453,"CC(=O)OCC(=O)CC[C:1](C1=CC=CC=C1)([C:2]1=[N+](CC2=CC=CC=C2)C(C)=C(CCO)S1)[O-:3].CC[NH+](CC)CC.[Cl-]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4374,"CC1(O)CCC[C:1](=[O:2])[CH:3]1[H:4].[OH-:5]|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,2268,"CC(C)[N-:1]C(C)C.O=C(C=C(CC1=CC=CC=C1)[O:2][H:3])OC(=O)C1=CC=CC=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4380,"BrC1=C([NH2:1])C=CC=C1.CC(=O)CC[C:2](C)=[O:3].CC(=O)O|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,6285,"C1=CC2=C(C=C1)C[C:1]([H:2])([CH2:3][OH2+:4])C2.CC1=CC=C(S(=O)(=O)[O-:5])C=C1|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,3663,"CO[PH+:1](Cl)OC.C[OH:2]|(2, 1)"
train,pmechdb_split_0,0,982,"C1CCNC1.CC1(CC[C:1](C)([N:2]2CCCC2)[OH:3])C(=O)CCCC1=O|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,6424,"C(C[CH:1]1C[O:2]1)C[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6953,"[Cl][Al-]([Cl])([Cl])[Cl+:1][C:2](CCOC1=CC=CC=C1)=[O:3]|(3, 2);((2, 1), 1)"
